US06949579B2
N-(6-chloro-1H-indazol-3-yl)acetamide
0.32 cm3 of predistilled acetyl chloride is added to 750 mg of 6-chloro-1H-indazole-3-amine in 10 cm3 of pyridine, after the reaction medium has been cooled to about 3° C. The medium is then allowed to return to 19° C. over 48 hours. The reaction medium is evaporated to dryness under reduced pressure (2 kPa; 40° C.). The residue is taken up in 75 cm3 of ethyl acetate and 50 cm3 of distilled water. The organic phase is washed again with 50 cm3 of distilled water and then dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure. The residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume) and collecting 35 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 40° C.). After drying (90 Pa; 45° C.), 700 mg of N-(6-chloro-1H-indazol-3-yl)-acetamide, melting at 240° C., are obtained.

reactant | acetyl chloride | 0.32 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | 6-chloro-1H-indazole-3-amine | 750 mg | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-1H-indazol-3-yl)acetamide | ClC1=CC=C2C(=NNC2=C1)NC(C)=O | C9H8ClN3O
